US03962249
1-[3-(o-Methylphenyl)propyl]-3-methyl-4-(2-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 2 from a mixture of 1-[3-(o-methylphenyl)propyl]-3-methylpiperazine [b.p. 120° - 125°C (2 mmHg), dipicrate, m.p. 245° - 250°C], 2-furoyl chloride and benzene.

reactant | 1-[3-(o-methylphenyl)propyl]-3-methylpiperazine | CC1=C(C=CC=C1)CCCN1CC(NCC1)C | C15H24N2
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[3-(o-Methylphenyl)propyl]-3-methyl-4-(2-furoyl)piperazine hydrochloride | Cl.CC1=C(C=CC=C1)CCCN1CC(N(CC1)C(=O)C=1OC=CC1)C | InChI=1S/C20H26N2O2.ClH/c1-16-7-3-4-8-18(16)9-5-11-21-12-13-22(17(2)15-21)20(23)19-10-6-14-24-19;/h3-4,6-8,10,14,17H,5,9,11-13,15H2,1-2H3;1H
